US09352049B2
Preparation of benzyl 2-((1-chlorosilolan-1-yl)oxy)acetate
To a solution of cyclotetramethylenedichlorosilane (0.5 mL; 3.82 mMol) in dry THF (5 mL) was added urea (0.275 g; 4.58 mmol). The mixture was then cooled to 0° C. and benzyl glycolate (0.54 mL; 3.82 mmol) was then added dropwise over a 7 minute span. The mixture was then taken off the ice bath and allowed to stir at room temperature for 1 hour. The biphasic mixture was then concentrated under high vacuum and diluted with chloroform. The aqueous layer was then soaked up with excess Na2SO4 and the mixture was filtered. The filtrate was concentrated to a light yellow crude liquid which was used without further purification.

reactant | cyclotetramethylenedichlorosilane | 3.82 mMol, 0.5 mL | C1CC[Si](C1)(Cl)Cl | C4H8Cl2Si
reactant | urea | 4.58 mmol, 0.275 g | NC(=O)N | CH4N2O
reactant | benzyl glycolate | 3.82 mmol, 0.54 mL | C(CO)(=O)OCC1=CC=CC=C1 | C9H10O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | benzyl 2-((1-chlorosilolan-1-yl)oxy)acetate | Cl[Si]1(CCCC1)OCC(=O)OCC1=CC=CC=C1 | C13H17ClO3Si
